US07902201B2
g) 5-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid (2,2,2-trifluoro-ethyl)-amide
As described for example 9b, 5-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester (75 mg, 0.23 mmol), instead of 5-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyrazine-2-carboxylic acid methyl ester, was converted, using 2,2,2-trifluoroethylamine instead of isopropylamine, to the title compound (64 mg, 71%) which was obtained as a light yellow solid. MS: m/e=397.2 [M+H]+.

reactant | 5-[3-(4-fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid methyl ester | 0.23 mmol, 75 mg | COC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)F | C16H12FN3O4
reactant | 5-[(5-methyl-3-phenyl-isoxazol-4-ylmethyl)-amino]-pyrazine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(N=C1)NCC=1C(=NOC1C)C1=CC=CC=C1 | C17H16N4O3
reactant | 2,2,2-trifluoroethylamine | FC(CN)(F)F | C2H4F3N
product | 5-[3-(4-Fluoro-phenyl)-isoxazol-4-ylmethoxy]-pyrazine-2-carboxylic acid (2,2,2-trifluoro-ethyl)-amide | 64 mg, 71% | FC(CNC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1)C1=CC=C(C=C1)F)(F)F | C17H12F4N4O3
